US06960601B2
To a solution of 2-{[trans-2-({[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}amino)cyclohexyl]oxy}-ethyl acetate (Table entry 286) (31 mg, 0.06 mmol) in THF (7 mL) and water (0.7 mL) was added NaBH4 (5 mg, 0.13 mmol) portionwise over 1 h with the temperature kept below 20° C. The mixture was stirred at rt overnight, cooled to 5° C., treated with acetone (1 mL), and then concentrated. The residue was dissolved in CH2Cl2 and washed with brine. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography (2.5% methanol in EtOAc) to give the product 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[(1R, 2S)-2-(2-hydroxyethoxy)cyclohexyl]-1H-imidazole-4-carboxamide (7.5 mg, 26% yield): LC-MS m/z (474.8 MH+), retention time 2.91 min (method 1); Rf=0.17 (EtOAc).

reactant | 2-{[trans-2-({[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}amino)cyclohexyl]oxy}-ethyl acetate | 0.06 mmol, 31 mg | C(C)(=O)OCCO[C@H]1[C@@H](CCCC1)NC(=O)C=1N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C26H27Cl2N3O4
reactant | NaBH4 | 0.13 mmol, 5 mg | [BH4-].[Na+]
reactant | acetone | 1 mL | CC(=O)C | C3H6O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 0.7 mL | O | H2O
product | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[(1R, 2S)-2-(2-hydroxyethoxy)cyclohexyl]-1H-imidazole-4-carboxamide | 7.5 mg, 26% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N[C@H]1[C@H](CCCC1)OCCO)C1=CC=C(C=C1)Cl | C24H25Cl2N3O3
